US08912186B2
The solution of 3-(4-chlorophenyl)glutaric anhydride (449 mg) and anthranilamide (272 mg) in toluene (8 ml) was heated to reflux for 4 h. After removal of the solvent the residue was dried in vacuo. The off-white solid was dissolved in 2M sodium hydroxide (3 ml) and stirred under reflux for 2 h. After cooling to room temperature acetic acid (0.5 ml) was added with stirring. The precipitate formed was isolated by suction filtration, washed, and dried in vacuo to give 3-(4-chlorophenyl)-4-(4-hydroxy-2-quinazolinyl)butanoic acid (0.57 g) as colourless solid.

reactant | 3-(4-chlorophenyl)glutaric anhydride | 449 mg | ClC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C11H9ClO3
reactant | anthranilamide | 272 mg | C(C=1C(N)=CC=CC1)(=O)N | C7H8N2O
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-chlorophenyl)-4-(4-hydroxy-2-quinazolinyl)butanoic acid | 0.57 g | ClC1=CC=C(C=C1)C(CC(=O)O)CC1=NC2=CC=CC=C2C(=N1)O | C18H15ClN2O3
